US09428528B2
2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(morpholino-methyl)thiophen-2-yl)phenyl)propan-2-yl)acetamide
Following the general procedure of Example 22, Step 1 and making non-critical variations but using 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-iodophenyl)propan-2-yl)acetamide (150 mg, 0.34 mmol) and 4-((5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophen-2-yl)methyl)morpholine (114 mg, 0.37 mmol), followed by the general procedure from Example 2, step 2, the title compound is obtained (50 mg): 1H NMR (400 MHz, CDCl3) δ: 1.66 (bs, 1H), 2.53 (t, 4H), 3.71 (s, 2H), 3.75 (t, 4H), 4.25-4.38 (m, 1H), 4.42-4.48 (m, 0.5H), 4.53-4.60 (m, 1H), 4.65-4.71 (m, 0.5H), 5.11 (d, 1H), 5.87 (s, 1H), 6.89 (d, J=3.5 Hz, 1H), 7.04 (d, J=8.8 Hz, 1H), 7.16 (d, J=3.5 Hz, 1H), 7.39 (m, 2H), 7.59 (m, 2H).

reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-iodophenyl)propan-2-yl)acetamide | 0.34 mmol, 150 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)I)O)CF)Cl | C11H11Cl2FINO2
reactant | 4-((5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophen-2-yl)methyl)morpholine | 0.37 mmol, 114 mg | CC1(OB(OC1(C)C)C1=CC=C(S1)CN1CCOCC1)C | C15H24BNO3S
product | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(morpholino-methyl)thiophen-2-yl)phenyl)propan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1SC(=CC1)CN1CCOCC1)O)CF)Cl | C20H23Cl2FN2O3S
